data/specific_train_final.csv
"[H:3][C:2](=[O:1])[CH:4]([C:7]([CH3:8])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:9][O:10])[O:5][H:6]>>[H:6][O:5][CH:4]([C:2]=[O:1])[C:7]([CH3:8])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:9][O:10][H:3] 2,3-2;2,3-3,10;10-3,10",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCCC(CO)O[O:10]>>[H:20][O:10]OC(CCCC)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[CH:10]CC=O.[O:20][O]>>CC[CH:10](CC=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=C)[CH:10]CO.[O:20][O]>>CC(=C)[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(CO[O:20])O.[N:10]=O>>CCCCC(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)Cl)[O:20][O:21]N=O>>C(C(Cl)Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:4][CH:3]([C:5]([CH3:6])([CH3:7])[CH3:8])[O:2][O:1].[N+:10](=[O:9])([O-:12])[O:11]>>[CH3:4][CH:3]([C:5]([CH3:6])([CH3:7])[CH3:8])[O:2][O:1][O:11][N+:10](=[O:9])[O-:12] 1-11,1; 11-11,1",Room Temperature,Termination,recombine
"CCC12C(C=CC(C1O)(OO2)C)[O:10][O:20][O].[N+]([O-])=O>>CCC12C(C=CC(C1O)(OO2)C)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"CCCC12C=CC(C(C1O)OO2)OO[O:20][N+:21](=O)[O-]>>CCCC12C=CC(C(C1O)OO2)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:3][CH:2]([C:4]1([CH:6]([O:7]1)[CH2:8][OH:9])[CH3:5])[OH:1].[H:11][O:10]>>[H:11][O:10][H:3].[CH3:5][C:4]1([CH:6]([O:7]1)[CH2:8][OH:9])[CH:2][OH:1] 10-3,10;2,3-3,10;2,3-2",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C1(C(O1)/C(=C\C(=O)CC)/C)CC.[O:10][O]>>[H:20][O:10][O].CCC(=O)/C=C(/C)\C1C(O1)(CC)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(C)C[O:20][O:21]N=O>>CC(C)C(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[CH:10]C(=O)CC.[O:20][O]>>CC[CH:10](C(=O)CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)Cl)([O:21][O:20][O])Cl.[N+](=O)[O-]>>C(C(Cl)Cl)([O:21])Cl.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10]1CCC(CC1O)C(=C)C.[O:20][O]>>CC(=C)C1CC[C:10](C(C1)O)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(OC(=O)C)[O:20][O:21][O].[N+](=O)[O-]>>CCCC([O:20])OC(=O)C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1cccc[c:21]1[C:20](=O)[O:10]>>c1cccc[c:21]1.[C:20](=O)=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:1][CH2:2][C:3]1=[CH:4][CH:5]=[CH:6][CH:7]=[C:8]1[OH:9].[OH:10]>>[CH3:1][CH2:2][C:3]1=[CH:4][CH:5]=[CH:6][CH:7]([C:8]1[OH:9])[OH:10] 10-10,7; 8,7-10,7; 8,7-8",Room Temperature,Propagation,addition
"C[C:10]1CCC2C(CC2(C)C)C(=C)CCC1O.[O:20][O]>>CC1(CC2C1CC[C:10](C(CCC2=C)O)(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([CH2:8][O:9][OH:10])[O:12][O:13])[O:5][OH:6].[N:14]=[O:15]>>[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([CH2:8][O:9][OH:10])[O:12][O:13][N:14]=[O:15])[O:5][OH:6] 13-13,14; 14-13,14",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1=C(C=CC=C1)C(C)O[O:10]>>[H:20][O:10]OC(C)C1=C(C=CC=C1)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:4][C:5](=[CH:8][CH2:9][Cl:10])[CH2:6][O:7].[N+:2](=[O:1])[O-:3]>>[CH3:4][C:5](=[CH:8][CH2:9][Cl:10])[CH2:6][O:7][N+:2](=[O:1])[O-:3] 2-2,7; 7-2,7",Room Temperature,Termination,recombine
"CC1=CCC(CC1O)C(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC1=CCC(CC1O)C(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=C(C=C[C:22]1CC)C)O.[O:10][O]>>[H:20][O:10][O].CC[C:22]1=[C:21](C=C(C=C1)C)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:1][O:2][O:3][C:4]([CH3:11])[CH:5]([CH2:8][O:9][OH:10])[O:6][OH:7]>>[H:1][O:2].[CH3:11][C:4](=[O:3])[CH:5]([CH2:8][O:9][OH:10])[O:6][OH:7] 2,3-2; 2,3-3,4; 4-4,3",Room Temperature,Propagation,retroaddition
"CC1(C2CCC(C1C2)(COO[O:20][N+:21](=O)[O-])O)C>>CC1(C2CCC(C1C2)(COO[O:20])O)C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3]([CH2:6][OH:7])([C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][H:9])[O:5].[N+:16](=[O:17])[O-:15]>>[H:4][C:3]([CH2:6][OH:7])([C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][H:9])[O:5][N+:16](=[O:17])[O-:15] 16-16,5; 5-16,5",Room Temperature,Termination,recombine
"CCC(CO)[O:20][O:21][O]>>CCC(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(O[O:10])(COO)/[CH:23]=[CH:22]\[O:21][H:20]>>CC(O[O:10][H:20])(COO)[CH:23][CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23",Room Temperature,Propagation,abstraction
